US07691882B2
3-(3-(4-(5-Chloro-furan-2-ylmethyl)-benzyl)-isoxazol-5-yl)-6-methoxymethyl-pyridin-2-ylamine
To a mixture of (4-(5-chloro-furan-2-ylmethyl)-phenyl)-acetohydroximoyl chloride (25 mg, 0.088 mmol) described in Manufacturing Example 62-1-6 and tetrahydrofuran (1 mL) were added 3-ethynyl-6-methoxymethyl-pyridin-2-ylamine (11 mg, 0.069 mmol) described in Manufacturing Example 26-1-7 and triethylamine (19 μL, 0.014 mmol), which was stirred for 1 hour at 50° C. The reaction mixture was allowed to room temperature, water was added at the same temperature, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue thus obtained was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound as a crude product. This product was then purified by NH silica gel column chromatography (ethyl acetate:heptane=1:1) to obtain the title compound (7.5 mg, 27%).

reactant | (4-(5-chloro-furan-2-ylmethyl)-phenyl)-acetohydroximoyl chloride | 0.088 mmol, 25 mg | ClC1=CC=C(O1)CC1=CC=C(C=C1)CC(=NO)Cl | C13H11Cl2NO2
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | 3-ethynyl-6-methoxymethyl-pyridin-2-ylamine | 0.069 mmol, 11 mg | C(#C)C=1C(=NC(=CC1)COC)N | C9H10N2O
reactant | triethylamine | 0.014 mmol, 19 μL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 3-(3-(4-(5-Chloro-furan-2-ylmethyl)-benzyl)-isoxazol-5-yl)-6-methoxymethyl-pyridin-2-ylamine | ClC1=CC=C(O1)CC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)COC)N)C=C1 | C22H20ClN3O3
